US05646308
To a mixture of 4.05 g of 2,2-bis(fluoromethyl)-3,4-dihydro-6-nitro-2H-1-benzopyran-4-one and 10 ml of dried benzene was added 2.52 ml of trimethylsilyl cyanide with stirring under ice-cooling. 0.82 g of zinc iodide was added therein and the mixture was stirred at room temperature for 12 hours. Further, 8 ml of pyridine and 4.41 ml of phosphorus oxychloride were added therein and the resultant mixture was refluxed with heating for 6 hours. Ice water was added to the residue and it was acidified to be hydrochloric acid and it was extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, CH2Cl2 :hexane=7:3) to obtain 0.99 g of 4-cyano-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran with a melting point of 136°-137° C.

reactant | 2,2-bis(fluoromethyl)-3,4-dihydro-6-nitro-2H-1-benzopyran-4-one | 4.05 g | FCC1(OC2=C(C(C1)=O)C=C(C=C2)[N+](=O)[O-])CF | C11H9F2NO4
reactant | trimethylsilyl cyanide | 2.52 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | phosphorus oxychloride | 4.41 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc iodide | 0.82 g | [I-].[Zn+2].[I-]
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4-cyano-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran | 0.99 g | C(#N)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C12H8F2N2O3
